US05185346
To a stirred solution of 2 parts of sodium in 24 parts of 1-propanol was added a solution of 5.2 parts of 2-chloro-6-(1H-imidazol-1-ylmethyl)-4-methylquinoline in 16 parts of 1-propanol at room temperature under nitrogen atmosphere. After stirring for 2 hours at reflux temperature, the mixture was evaporated. The residue was taken up in a potassium carbonate solution and the product was extracted with ethyl acetate. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 1.8 parts (31.9%) of 6-(1H-imidazol-1-ylmethyl)-4-methyl-2-propoxyquinoline; mp. 137.9° C. (compound 25).

reactant | sodium | [Na] | Na
reactant | 2-chloro-6-(1H-imidazol-1-ylmethyl)-4-methylquinoline | ClC1=NC2=CC=C(C=C2C(=C1)C)CN1C=NC=C1 | C14H12ClN3
reactant | 1-propanol | C(CC)O | C3H8O
product | 6-(1H-imidazol-1-ylmethyl)-4-methyl-2-propoxyquinoline | 31.9% | N1(C=NC=C1)CC=1C=C2C(=CC(=NC2=CC1)OCCC)C | C17H19N3O
